US05359055
The procedure of Example 23 was repeated except that 4.5 mg (0.0106 mmole) of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate was used in lieu of 5 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate to give 3.7 mg of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol (yield: 90%).

reactant | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate | 0.0106 mmole, 4.5 mg | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C5OCCO5)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C | C26H36O5
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate | 5 mg | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C | C29H42O5
product | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol | 3.7 mg, yield: 90% | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O | C24H34O4
